US06797726B1
In 2.5 mL of ethyl acetate is dissolved 0.49 g of N-[2-(2-benzo[b]thiophen-7-ylethoxy)ethyl]-N,N-dimethylamine, to which is added 0.73 mL of 3.5 mol/L solution of dry hydrogen chloride in ethyl acetate. The resulting solution is stirred at ambient temperature for one hour. The deposited crystal is collected by filtration, washed with ethyl acetate and dried to obtain 0.44 g of N-[2-(2-benzo[b]thiophen-7-ylethoxy)ethyl]-N,N-dimethylamine hydrochloride.

reactant | N-[2-(2-benzo[b]thiophen-7-ylethoxy)ethyl]-N,N-dimethylamine | 0.49 g | S1C2=C(C=C1)C=CC=C2CCOCCN(C)C | C14H19NOS
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 2.5 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(2-benzo[b]thiophen-7-ylethoxy)ethyl]-N,N-dimethylamine hydrochloride | 0.44 g | Cl.S1C2=C(C=C1)C=CC=C2CCOCCN(C)C | InChI=1S/C14H19NOS.ClH/c1-15(2)8-10-16-9-6-12-4-3-5-13-7-11-17-14(12)13;/h3-5,7,11H,6,8-10H2,1-2H3;1H
